US08236964B2
a) 2-Iodo-benzofuran-4-carboxylic acid
A mixture of 2-iodo-benzofuran-4-carboxylic acid [3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-thiazolidin-4-ylmethyl]-amide (57 mg), copper (I) iodide (91 mg, 5 eq), methyl 2,2-difluoro-2-(fluorosulfonyl)acetate (0.08 mL, 6.5 eq), HMPA (0.17 mL, 10 eq) in dry DMF (2.5 mL) was stirred at 80° C. for 16 hours under nitrogen. After cooling to rt, the reaction mixture was partitioned between water and EtOAc, the organic phase was washed again with water, dried (MgSO4), filtered and concentrated in vacuo to yield a crude yellow-orange oil. FC (AlO3, EtOAc/n-heptane: 7/3) gave the title compound (4.2 mg, 8%) as a white solid. LC-MS: tR=1.08 min; [m+H]+=546.22.

reactant | 2-iodo-benzofuran-4-carboxylic acid [3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-thiazolidin-4-ylmethyl]-amide | 57 mg | CC=1SC(=C(N1)C(=O)N1CSCC1CNC(=O)C=1C=CC=C2C1C=C(O2)I)C=2C=C(C=CC2)C | C25H22IN3O3S2
reactant | methyl 2,2-difluoro-2-(fluorosulfonyl)acetate | 0.08 mL, 6.5 eq | FC(C(=O)OC)(S(=O)(=O)F)F | C3H3F3O4S
reactant | HMPA | 0.17 mL, 10 eq | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | EtOAc n-heptane | CCOC(=O)C.CCCCCCC
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 91 mg, 5 eq | [Cu]I
product | 2-Iodo-benzofuran-4-carboxylic acid | 4.2 mg, 8% | IC=1OC=2C(C1)=C(C=CC2)C(=O)O | C9H5IO3
